US08212045B2
A flask was charged with 5-bromo-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)picolinonitrile (27.77 g, 90.41 mmol), pyridine-2-thiol (10.55 g, 94.93 mmol), and DMF (300 mL). The reaction was cooled to 0° C. and 95% sodium hydride (2.741 g, 108.5 mmol) was added portionwise. The reaction was stirred at ambient temperature overnight, then carefully diluted with water (2 L) and extracted with ethyl acetate. The organic layer was washed with brine (4×500 mL), dried over sodium sulfate and concentrated to afford 5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)picolinonitrile (29.50 g, 87.43 mmol, 96.70% yield) as yellow solid.

reactant | 5-bromo-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)picolinonitrile | 90.41 mmol, 27.77 g | BrC=1C=C(C(=NC1)C#N)OC=1C(=NN(C1C)C)C | C12H11BrN4O
reactant | pyridine-2-thiol | 94.93 mmol, 10.55 g | N1=C(C=CC=C1)S | C5H5NS
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
reactant | sodium hydride | 108.5 mmol, 2.741 g | [H-].[Na+]
solvent | water | 2 L | O | H2O
product | 5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)picolinonitrile | 87.43 mmol, 29.50 g, 96.70% yield | N1=C(C=CC=C1)SC=1C=C(C(=NC1)C#N)OC=1C(=NN(C1C)C)C | C17H15N5OS
